US06982348B2
To a solution of ethyl (2RS,3RS)-2-(4-fluorobenzyl)-3-(4-fluorophenyl)-3-hydroxypropionate (16.5 g, 51.5 mmol) in methanol (50 ml) was added 2N aqueous sodium hydroxide solution (51.5 ml, 0.103 mol) and the mixture was stirred at room temperature for 3 hrs. The reaction solution was acidified with 1N hydrochloric acid (130 ml) and extracted with ethyl acetate (200, 100 ml). The extract was washed with water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was crystallized from, hexane to give (2RS,3RS)-3-(4-fluorophenyl)-2-(4-fluorobenzyl)-3-hydroxypropionic acid (14.2 g, 94%).

reactant | ethyl (2RS,3RS)-2-(4-fluorobenzyl)-3-(4-fluorophenyl)-3-hydroxypropionate | 51.5 mmol, 16.5 g | FC1=CC=C(CC(C(=O)OCC)C(O)C2=CC=C(C=C2)F)C=C1 | C18H18F2O3
reactant | sodium hydroxide | 0.103 mol, 2N, 51.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 130 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | (2RS,3RS)-3-(4-fluorophenyl)-2-(4-fluorobenzyl)-3-hydroxypropionic acid | 14.2 g, 94% | FC1=CC=C(C=C1)C(C(C(=O)O)CC1=CC=C(C=C1)F)O | C16H14F2O3
